US07842688B2
c) [3-(3-Methoxypropoxy)-4-methylphenyl]methanol
The solution of 7.70 g of 3-methoxypropyl 3-(3-methoxypropoxy)-4-methylbenzoate in 20 ml of tetrahydrofuran is added dropwise at 20-60° C. to the stirred mixture of 1.02 g of lithium aluminium hydride in 20 ml of tetrahydrofuran. The reaction mixture is stirred at reflux over 3 hours and subsequently cooled to room temperature. 2 ml of water, 2 ml of 2N NaOH and once again 2 ml of water are successively added dropwise. The suspension is stirred at room temperature over 14 hours. The reaction mixture is poured onto 250 ml of 2N HCl (cold) and extracted with ethyl acetate (2×200 ml). The organic phases are washed successively with 2N HCl (100 ml), water (100 ml) and brine (1×100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.23 (1:1 EtOAc-heptane); Rt=3.59.

reactant | 3-methoxypropyl 3-(3-methoxypropoxy)-4-methylbenzoate | 7.70 g | COCCCOC=1C=C(C(=O)OCCCOC)C=CC1C | C16H24O5
reactant | lithium aluminium hydride | 1.02 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2N, 2 ml | [OH-].[Na+]
reactant | HCl | 2N, 250 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | [3-(3-Methoxypropoxy)-4-methylphenyl]methanol | COCCCOC=1C=C(C=CC1C)CO | C12H18O3
